US06479487B1
1-(6-Butoxyhexyl)-4-piperidone oxime is prepared from 1-(6-butoxyhexyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(6-butoxyhexyl)-4-piperidone | C(CCC)OCCCCCCN1CCC(CC1)=O | C15H29NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(6-Butoxyhexyl)-4-piperidone oxime | C(CCC)OCCCCCCN1CCC(CC1)=NO | C15H30N2O2
